US06964965B2
To a solution of benzyl (3R,4S)-3-[(3,6-diethylpyrazin-2-yl)amino]-4-ethoxypyrrolidine-1-carboxylate (14.55 g, 36.5 mmole) in CH2Cl2 (0.1 M, 365 ml) under N2 was added palladium chloride (1.29 g, 7.24 mmole) and triethyl amine (7.61 mL, 1.5 eq.). Triethylsilane (8.74 mL, 1.5 eq.) was added dropwise over 15 min. After one hour, an additional 8.74 mL of triethylsilane were added dropwise. After 2 additional hours, the reaction mixture was filtered through celite. Trifluoroacetic acid (8 mL) was added and the reaction mixture was stirred for 30 minutes, basified to pH 10 with 2 N aqueous NaOH and extracted with CH2Cl2 (3×300 ml), dried with MgSO4, filtered and concentrated. Vacuum chromatography was run on a 1 L frit funnel with 5-15% MeOH/CH2Cl2 with 0.5% NH4OH gave 8.75 g (91%) of N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine as an oil. IR (liq.) 3438, 2971, 2935, 2874, 2452, 1580, 1546, 1498, 1465, 1448, 1395, 1343, 1164, 1124, 1078 cm−1 HRMS (ESI) calcd for C14H24N4O+H1 265.2028. found 265.2026. [α]25D=−45° (c 1.02, chloroform).

reactant | benzyl (3R,4S)-3-[(3,6-diethylpyrazin-2-yl)amino]-4-ethoxypyrrolidine-1-carboxylate | 36.5 mmole, 14.55 g | C(C)C=1C(=NC(=CN1)CC)N[C@@H]1CN(C[C@@H]1OCC)C(=O)OCC1=CC=CC=C1 | C22H30N4O3
reactant | triethyl amine | 7.61 mL, 1.5 eq. | C(C)N(CC)CC | C6H15N
reactant | Triethylsilane | 8.74 mL, 1.5 eq. | C(C)[SiH](CC)CC | C6H16Si
reactant | triethylsilane | 8.74 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | CH2Cl2 | 0.1 M, 365 ml | C(Cl)Cl | CH2Cl2
catalyst | palladium chloride | 7.24 mmole, 1.29 g | [Pd](Cl)Cl
product | N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine | 8.75 g, 91% | C(C)O[C@@H]1[C@@H](CNC1)NC1=NC(=CN=C1CC)CC | C14H24N4O
